US04863945
7,7-Dimethyl-6,7-dihydro-2-(4-methoxybenzoylamino)-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one
3 g. (10.1 mmole) 2-Amino-7,7-dimethyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one hydrobromide are stirred with 2.5 g. p-anisoyl chloride in 50 ml. pyridine for 4 hours at 50° C. The pyridine is subsequently distilled off, the residue is worked up with water, decanted, worked up with ligroin and the residue recrystallised twice from ethanol to give 1.4 g. (40% of theory) of the title compound; m.p. >300° C.

reactant | 2-Amino-7,7-dimethyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one hydrobromide | 10.1 mmole | Br.NC=1NC2=C(N1)C=C1C(=C2)NC(C1(C)C)=O
reactant | p-anisoyl chloride | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 7,7-Dimethyl-6,7-dihydro-2-(4-methoxybenzoylamino)-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | CC1(C(NC2=CC3=C(N=C(N3)NC(C3=CC=C(C=C3)OC)=O)C=C21)=O)C | C19H18N4O3
